US04649153
A solution of 19.3 g of 2-methyl-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid and 10 cc of sulfuric acid in 500 cc of ethanol was refluxed for 8 hours then concentrated under reduced pressure to a volume of 100 cc. The residue was diluted with ethyl acetate and stirred with an aqueous solution of sodium bicarbonate. The organic phase was separated, washed with water and dried over sodium sulfate. After evaporation of the solvent under reduced pressure the residue was distilled. 18.2 g (yield=81%) of ethyl-2-methyl-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylate was obtained. Bp0.7=90° C.

reactant | 2-methyl-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid | 19.3 g | CC1=CC2=C(S1)C(CC2)C(=O)O | C9H10O2S
reactant | sulfuric acid | 10 cc | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 500 cc | C(C)O | C2H6O
product | ethyl-2-methyl-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylate | 18.2 g, yield=81% | C(C)OC(=O)C1CCC2=C1SC(=C2)C | C11H14O2S
